US09290472B2
DBU (0.764 mL) was added to a mixture of benzyl bromide (0.61 mL), (S)-1-tert-butoxycarbonyl-pyrrolidine-3-carboxylic acid (1 g) in anhydrous toluene (10 mL) and the mixture was stirred at room temperature for 24 hours. The mixture was filtered and the filtrate was concentrated in vacuo. The residue was purified by chromatography on silica eluting with a mixture of ethyl acetate and cyclohexane with a gradient of 0-35% to give benzyl (S)-1-tert-butoxycarbonylpyrrolidine-3-carboxylate (0.859 g)

reactant | DBU | 0.764 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | benzyl bromide | 0.61 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | (S)-1-tert-butoxycarbonyl-pyrrolidine-3-carboxylic acid | 1 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)C(=O)O | C10H17NO4
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | benzyl (S)-1-tert-butoxycarbonylpyrrolidine-3-carboxylate | 0.859 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)C(=O)OCC1=CC=CC=C1 | C17H23NO4
